US04473692
10-Nitrocamptothecin (108 mg, 0.275 m-mol) is dissolved in ethanol (30 ml) and dioxane (20 ml). To this solution is added platinum oxide (20 mg), and the mixture is subjected to catalytic reduction for 30 minutes at room temperature under normal pressure. The catalyst is removed by filtration and the reaction mixture is evaporated under reduced pressure until dryness whereby 96 mg (yield: 96.2%) of 10-aminocamptothecin is obtained as a yellowish brown solid.

reactant | 10-Nitrocamptothecin | 108 mg | CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC(=CC5=C4)[N+](=O)[O-])O | C20H15N3O6
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | platinum oxide | 20 mg | [Pt]=O
product | 10-aminocamptothecin | 96 mg, yield: 96.2% | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC(=CC5=C4)N)O | C20H17N3O4
